US08609715B2
Step 1. Synthesis of 5-(tert-butyldimethylsilyloxy)-methylthiazole
5-Hydroxymethylthiazole (5.0 g, 43 mmol), imidazole (7.4 g, 109 mmol), and diisopropylethylamine (14 g, 109 mmol) were dissolved in N,N-dimethylformamide (50 ml), tert-butyldimethylsilyl chloride (13.1 g, 87 mmol) was added, and the mixture was stirred at room temperature for 20 hours. Ethyl acetate (200 ml) and water (100 mL) were added to the reaction mixture, the mixture was partitioned, and the organic layer was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate and purified by silica gel column chromatography to give the title compound.

reactant | 5-Hydroxymethylthiazole | 43 mmol, 5.0 g | OCC1=CN=CS1 | C4H5NOS
reactant | imidazole | 109 mmol, 7.4 g | N1C=NC=C1 | C3H4N2
reactant | diisopropylethylamine | 109 mmol, 14 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyldimethylsilyl chloride | 87 mmol, 13.1 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5-(tert-butyldimethylsilyloxy)-methylthiazole | [Si](C)(C)(C(C)(C)C)OC1=CN=C(S1)C | C10H19NOSSi
